US09120825B2
In an argon atmosphere, 4.06 g (19.8 mmol) of Si(iPrNCHCHNiPr)(H)Cl was dissolved in 20 mL of hexane. The resulting solution was deaerated by Freeze-Pump-Thaw cycling and after creating an ammonia atmosphere in the reaction vessel by connecting thereto a balloon having an internal volume of 5 L and being filled with ammonia, the solution was stirred at room temperature for 3 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 80° C./8.8×102 Pa) to obtain 2-amino-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene (Si(iPrNCHCHNiPr)(H)NH2) as a colorless liquid (yielded amount: 2.11 g, yield: 58%).

reactant | 2-chloro-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene | 19.8 mmol, 4.06 g | Cl[SiH]1N(C=CN1C(C)C)C(C)C | C8H17ClN2Si
reactant | ammonia | N | H3N
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 2-amino-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene | yield: 58% | N[SiH]1N(C=CN1C(C)C)C(C)C | C8H19N3Si
